US04876262
4-(4-Methylsulfonylaminobenzoyl)-1-(4-pyridylmethyl)-piperidine dihydrochloride
1.13 g (18.8 mmol) of sodium methoxide was added to a suspension of 3.0 g (9.4 mmol of 4-(4-methylsulfonylaminobenzoyl)piperidine hydrochloride and 1.55 g (9.4 mmol) of 4-chloromethyl-pyridine hydrochloride in 90 ml of acetonitrile. The mixture was stirred at room temperature for 10 min. 2.88 g of potassium carbonate was added to the mixture and the obtained mixture was refluxed for 3 h. After cooling, the liquid reaction mixture was filtered and the filtrate was concentrated, while the residue was purified according to silica gel chromatography (chloroform:methanol=95.5). The product was converted into its hydrochloride with ethanolic hydrogen chloride and recrystallized from methanol/isopropanol to obtain 1.4 g of the intended compound:

reactant | sodium methoxide | 18.8 mmol, 1.13 g | C[O-].[Na+]
reactant | 4-(4-methylsulfonylaminobenzoyl)piperidine hydrochloride | 9.4 mmol | Cl.CS(=O)(=O)NC1=CC=C(C(=O)C2CCNCC2)C=C1
reactant | 4-chloromethyl-pyridine hydrochloride | 9.4 mmol, 1.55 g | Cl.ClCC1=CC=NC=C1
reactant | potassium carbonate | 2.88 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 90 ml | C(C)#N | C2H3N
product | 4-(4-Methylsulfonylaminobenzoyl)-1-(4-pyridylmethyl)-piperidine dihydrochloride | 1.4 g | Cl.Cl.CS(=O)(=O)NC1=CC=C(C(=O)C2CCN(CC2)CC2=CC=NC=C2)C=C1 | InChI=1S/C19H23N3O3S.2ClH/c1-26(24,25)21-18-4-2-16(3-5-18)19(23)17-8-12-22(13-9-17)14-15-6-10-20-11-7-15;;/h2-7,10-11,17,21H,8-9,12-14H2,1H3;2*1H
